US09062152B2
Synthesis of 2,5-bis(trimethylstannyl)thieno[3,2-b]thiophene
In a 3-neck round bottom flask equipped with an argon inlet and an addition funnel, thieno[3,2-b]thiophene (7.5 g, 54 mmol) was dissolved in tetrahydrofuran (1 L). After the solution was cooled to −78° C. using an isopropanol/dry ice bath, t-BuLi (100 mL, 170 mmol) was transferred by cannula to the addition funnel. The organolithium reagent was then added dropwise. After completion of the addition, the mixture was stirred for 20 min at −78° C. then warmed up with an isopropanol bath at room temperature for 30 minutes during which a yellow precipitate formed. The solution was cooled back at −78° C., and after cannula transfer to the addition funnel, trimethyltin chloride (200 mL of 1 M solution in THF, 200 mmol) was added dropwise. During addition of trimethyltin chloride, the precipitate disappeared and the solution turned light brown. After warming to room temperature the solution was stirred for 30 minutes then was poured into ice-cold water. The aqueous phase was further extracted with hexane. The combined organic phases were washed with cold water then dried with magnesium sulfate. After filtration, the solvent is evaporated under vacuum to yield a grey-brown solid. The product was purified by precipitation of a chloroform solution into methanol followed by filtration (13.2 g, 53%). Spectral data: 1H NMR (CDCl3, 300 MHz): δH 0.41 (s, 18H), 7.26 (s, 2H). 13C (CDCl3, 75 MHz): δ 7.99, 126.29, 141.4, 147.62.

reactant | thieno[3,2-b]thiophene | 54 mmol, 7.5 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | t-BuLi | 170 mmol, 100 mL | [Li]C(C)(C)C
reactant | trimethyltin chloride | 200 mmol, 1 M, 200 mL | C[Sn](C)(C)Cl
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 2,5-bis(trimethylstannyl)thieno[3,2-b]thiophene | C[Sn](C1=CC2=C(S1)C=C(S2)[Sn](C)(C)C)(C)C | InChI=1S/C6H2S2.6CH3.2Sn/c1-3-7-6-2-4-8-5(1)6;;;;;;;;/h1-2H;6*1H3;;
